US07572809B2
Similar procedure as described in example 384 was used, starting from 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid and Methyl-(3-piperidin-1-yl-propyl)-amine to give 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid methyl-(3-piperidin-1-yl-propyl)-amide. LC-MS: m/e 465 (MH+).

reactant | 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)C(=O)O)NC1=NNC(=C1)C | C17H18N4O3
reactant | Methyl-(3-piperidin-1-yl-propyl)-amine | CNCCCN1CCCCC1 | C9H20N2
product | 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-6-carboxylic acid methyl-(3-piperidin-1-yl-propyl)-amide | CN(C(=O)C=1C=C2C=C(N=C(C2=CC1)OC(C)C)NC1=NNC(=C1)C)CCCN1CCCCC1 | C26H36N6O2
